US03932465
A solution of 0.055 g of resorcinol in 0.3 ml of trifluoracetic acid is mixed with 0.04 g of 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid and the solution is left to stand for 15 minutes at room temperature. It is diluted with an equal quantity of toluene and then evaporated to dryness under reduced pressure. 3-(2,4-Dihydroxybenzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid is obtained by working up the residue in accordance with the process indicated in example 6; this acid shows the following Rf values in a thin layer chromatogram (silica gel): 0.66 (system n-butanol/acetic acid/water, 75:7.5:21), 0.70 (system n-butanol/acetic acid/water, 67:10:23) and 0.52 (system n-butanol/ethanol/water, 40:10:50).

reactant | resorcinol | 0.055 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 0.04 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
solvent | trifluoracetic acid | 0.3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2,4-Dihydroxybenzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | OC1=C(CC2=CS[C@H]3N(C2C(=O)O)C(C3NC(CC3=CC=CC=C3)=O)=O)C=CC(=C1)O | C22H20N2O6S
